US20010025108A1
To pentafluoropyridine (2.0 g, 12 mmol) dissolved in DMSO was added 2,2dimethyl-1,3-dioxolane-4-methanol (solketal) (1.5 mL, 12 mmol) and Cs2CO3 (3.8 g, 12 mmol). The slurry was heated in an oil bath at 60° C. for 1 day. The reaction was partitioned with water and ethyl acetate, washed with water and brine, dried (Na2SO4) and the solvent was removed to give 2,3,5,6-tetrafluoro-4-[[(2,2-dimethyl)dioxolan-4-yl]methoxy]pyridine (3.2 g).

reactant | pentafluoropyridine | 12 mmol, 2.0 g | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | 2,2dimethyl-1,3-dioxolane-4-methanol (solketal) | 12 mmol, 1.5 mL | CC1(OCC(O1)CO)C | C6H12O3
reactant | Cs2CO3 | 12 mmol, 3.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2,3,5,6-tetrafluoro-4-[[(2,2-dimethyl)dioxolan-4-yl]methoxy]pyridine | 3.2 g | FC1=NC(=C(C(=C1F)OCC1OC(OC1)(C)C)F)F | C11H11F4NO3
